US05489592
3-(3-Bromo-5-fluorophenyl)-2-propen-1-ol
56 ml (0.056 mol) of a 1M solution of diisobutylaluminium hydride in toluene are added dropwise under a nitrogen atmosphere to a suspension of 7.2 g (0.0278 mol) of methyl 3-(3-bromo-5-fluorophenyl) -2-propenoate in 84 ml of anhydrous ether cooled to 0° C. The mixture is stirred for 30 min at 0° C. and then for 3 h at room temperature. The mixture is cooled in an ice bath and carefully hydrolyzed with 6N H2SO4. Separation is carried out by settling and the organic phase is washed with water, dried over Na2SO4, filtered and evaporated under vacuum. The residue is purified by chromatography on silica (eluent: 2/1 hexane/ethyl acetate). Yd.: 4.2 g (65%)

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 3-(3-bromo-5-fluorophenyl) -2-propenoate | 0.0278 mol, 7.2 g | BrC=1C=C(C=C(C1)F)C=CC(=O)OC | C10H8BrFO2
reactant | H2SO4 | 6N | OS(=O)(=O)O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | 84 ml | CCOCC | C4H10O
product | 3-(3-Bromo-5-fluorophenyl)-2-propen-1-ol | BrC=1C=C(C=C(C1)F)C=CCO | C9H8BrFO
